US07176242B2
Methyl 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoate (4.5 g) was dissolved in THF (20 mL), methanol (20 mL), and water (20 mL). Lithium hydroxide monohydrate (1.1 g) was added and the mixture was stirred at room temperature for 1.5 h, at which time the organic solvents were removed under reduced pressure. Some ethyl acetate and water were added and the pH was adjusted to about 0 with aq. HCl. The mixture was extracted with ethyl acetate and the organic layers were washed with brine, dried (magnesium sulfate), and concentrated to give 3.8 g of 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid

reactant | Methyl 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoate | 4.5 g | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)C=1SC=CN1)CCC | C18H22N2O3S
reactant | methanol | 20 mL | CO | CH4O
reactant | water | 20 mL | O | H2O
reactant | Lithium hydroxide monohydrate | 1.1 g | O.[OH-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid | 3.8 g | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1SC=CN1)CCC | C17H20N2O3S
